US05206240
6-Amino-3,4-dihydro-1'-[2-(benzofurazan-5-yl)ethyl]-spiro[(2H)-1-benzopyran-2,4'-piperidine]-4-one
1-[2-(Benzofurazan-5-yl)ethyl]-4-piperidinone (0.98 g, 4 mmol), N-(3-acetyl-4-hydroxyphenyl)-acetamide (0.77 g, 4 mmol) and pyrrolidine (0.33 ml, 0.28 g, 4 mmol) in methanol (20 ml) were heated under reflux for 3 hours, cooled and the solvent was evaporated under reduced pressure. Water (50 ml) and aqueous sodium hydroxide (20%, 10 ml) were added and the mixture was extracted with ethyl acetate (3×50 ml). The combined organic fractions were dried (Na2SO4) and evaporated under reduced pressure to give a yellow solid. Ethanol (40 ml) and aqueous HCl (6N, 40 ml) were added and the mixture was heated under reflux for 2 hours. The mixture was cooled and the ethanol was evaporated under reduced pressure. Water (40 ml) was added and the mixture was washed with ethyl acetate (50 ml). Aqueous sodium hydroxide (20%, 60 ml) was added slowly, with stirring and cooling, and the mixture was extracted with dichloromethane (3×100 ml). The combined organic fractions were dried (Na2SO4) and evaporated under reduced pressure. The residue was triturated with ethyl acetate-hexane (1:1, 20 ml) and the solid was collected and dried in vacuo to give a yellow solid (1.17 g, 77%). A sample was recrystallized from chloroform-hexane to give the pyranone as a yellow solid, m.p. 191°-193° C.

reactant | 1-[2-(Benzofurazan-5-yl)ethyl]-4-piperidinone | 4 mmol, 0.98 g | N1=C2C(=NO1)C=C(C=C2)CCN2CCC(CC2)=O | C13H15N3O2
reactant | N-(3-acetyl-4-hydroxyphenyl)-acetamide | 4 mmol, 0.77 g | C(C)(=O)C=1C=C(C=CC1O)NC(C)=O | C10H11NO3
reactant | pyrrolidine | 4 mmol, 0.33 ml, 0.28 g | N1CCCC1 | C4H9N
reactant | HCl | 6N, 40 ml | Cl | ClH
solvent | methanol | 20 ml | CO | CH4O
solvent | Ethanol | 40 ml | C(C)O | C2H6O
product | 6-Amino-3,4-dihydro-1'-[2-(benzofurazan-5-yl)ethyl]-spiro[(2H)-1-benzopyran-2,4'-piperidine]-4-one | 1.17 g, 77% | NC=1C=CC2=C(C(CC3(CCN(CC3)CCC=3C=CC=4C(=NON4)C3)O2)=O)C1 | C21H22N4O3
